2121-10-29 07:06:00 Physician Resident Progress Note
Chief Complaint: SOB, airway obstruction
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2121-10-28**] 01:30 PM
   accessed by OR RNs.
 INVASIVE VENTILATION - START [**2121-10-28**] 01:30 PM
 OR RECEIVED - At [**2121-10-28**] 01:36 PM
 ARTERIAL LINE - START [**2121-10-28**] 03:15 PM
   placed by HO in room
   Pt came from OR as described above, remained sedated and intubated, RN
   noted high NG output, no blood and belly benign.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-10-29**] 12:05 AM
   Fentanyl - [**2121-10-29**] 06:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Respiratory: Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2121-10-29**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.7
   HR: 54 (52 - 98) bpm
   BP: 108/56(75) {94/54(68) - 133/67(90)} mmHg
   RR: 21 (15 - 49) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 92 kg (admission): 92.7 kg
             Total In:
                                                                  1,028 mL
                                                                    869 mL
   PO:
             TF:
   IVF:
                                                                  1,028 mL
                                                                    869 mL
   Blood products:
   Total out:
                                                                    790 mL
                                                                  1,060 mL
   Urine:
                                                                    690 mL
                                                                    460 mL
   NG:
                                                                    100 mL
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                    238 mL
                                                                   -191 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.42/50/90.[**Numeric Identifier 299**]/30/6
   Ve: 7.5 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   with some old blood
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Rhonchorous: )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   287 K/uL
   12.0 g/dL
   148 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.3 mEq/L
   13 mg/dL
   101 mEq/L
   140 mEq/L
   34.4 %
   9.6 K/uL
        [image002.jpg]
                            [**2121-10-28**]  03:43 PM
                            [**2121-10-28**]  04:17 PM
                            [**2121-10-29**]  01:48 AM
                            [**2121-10-29**]  02:11 AM
   WBC
   10.9
   9.6
   Hct
   34.8
   34.4
   Plt
   297
   287
   Cr
   0.8
   0.7
   TCO2
   32
   34
   Glucose
   185
   148
   Other labs: PT / PTT / INR:14.1/27.7/1.2, Albumin:3.6 g/dL, Ca++:8.5
   mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
   ASSESSMENT AND PLAN:  53 yo M, long hx of tracheobronchiomalacia w/
   multiple stents placed s/p stent fractures. Currently intubated for
   airway collapse and plan to go back to OR for stent removal and for
   thoracic [**Doctor First Name 91**] c/s for tracheal reconstruction/plasty
   NEUROLOGIC:  intubated/sedated
   sedation: propofol, ativan prn
   pain: methadone, fentanyl
   CARDIOVASCULAR:  BP stable, was low on prop so minimal sedation,
   anesthesia using precedex to min prop. will con't asa/statin for CAD
   PULMONARY:  vented, poor pulm tree but oxygenating/ventilating
   appropriately, plan to OR tmw for more stent fragment removal, thoracic
   [**Doctor First Name 91**] c/s for recon/plasty. IP anticipates tracheostomy need. will check
   post-proc CXR and f/u BAL. will con't steroids w/ hydrocort given long
   term prednisone use.
   GI / ABD:  NPO for now, place OGT and feed within next 24 hours
   NUTRITION:  will start TF tmw after procedure  Add glucose to IV fluids
   RENAL:  no issues
   HEMATOLOGY:  no issues
   ENDOCRINE:  SSI   Decrease steroids to 7.5mg  q 6h
   ID:  no ABx for now, will f/u BAL
   LINES/TUBES/DRAINS:  ETT, OGT, R portacath, PIV, foley
   WOUNDS:  none
   IMAGING:  CXR
   FLUIDS:  LR @ 100
   CONSULTS: primary is [**Last Name (LF) **], [**First Name3 (LF) **] [**Doctor First Name 91**] c/s
   BILLING DIAGNOSIS:  RESPIRATORY FAILURE
   ICU CARE:
   GLYCEMIC CONTROL:  ssi
   PROPHYLAXIS:  PPI, SCH, boots, VAP bundle
   COMMUNICATIONS:  wife
   ICU Consent:  pending wife
   CODE STATUS:  presumed full
   DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Indwelling Port (PortaCath) - [**2121-10-28**] 01:30 PM
   Arterial Line - [**2121-10-28**] 03:15 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU    31 minutes spent

2121-11-01 04:14:00 Physician Resident Progress Note
Chief Complaint: SOB, airway obstruction
   24 Hour Events:
 BRONCHOSCOPY - At [**2121-10-31**] 12:33 PM
   [**Last Name (un) **] s/p ETT replacement from 7.5 to 8.0 ETT
   d/c prop, sed w/ ativan/fentanyl, inc nutrition goal at 50, kvo ivf,
   inc secretions but clear. gas PaO2 80. no changes in vent made.
   History obtained from Family / [**Hospital 216**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Methadone Hydrochloride - [**2121-10-31**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2121-11-1**] 01:00 AM
   Pantoprazole (Protonix) - [**2121-11-1**] 02:00 AM
   Lorazepam (Ativan) - [**2121-11-1**] 03:50 AM
   Fentanyl - [**2121-11-1**] 03:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: inc secretions, clear
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2121-11-1**] 04:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 74 (59 - 104) bpm
   BP: 142/65(90) {103/50(67) - 181/82(116)} mmHg
   RR: 15 (12 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.4 kg (admission): 92.7 kg
             Total In:
                                                                  2,020 mL
                                                                    206 mL
   PO:
             TF:
                                                                    547 mL
                                                                    176 mL
   IVF:
                                                                  1,353 mL
                                                                     31 mL
   Blood products:
   Total out:
                                                                  2,445 mL
                                                                    340 mL
   Urine:
                                                                  2,445 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -425 mL
                                                                   -134 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 600 (213 - 787) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.46/44/80.[**Numeric Identifier 20**]//6
   Ve: 9.4 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: mild, grossly)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   259 K/uL
   11.7 g/dL
   218 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   9 mg/dL
   105 mEq/L
   140 mEq/L
   33.9 %
   15.8 K/uL
        [image002.jpg]
                            [**2121-10-30**]  08:00 AM
                            [**2121-10-30**]  09:27 AM
                            [**2121-10-30**]  01:48 PM
                            [**2121-10-30**]  02:00 PM
                            [**2121-10-30**]  03:14 PM
                            [**2121-10-30**]  09:01 PM
                            [**2121-10-30**]  09:39 PM
                            [**2121-10-31**]  01:52 AM
                            [**2121-11-1**]  02:51 AM
                            [**2121-11-1**]  03:24 AM
   WBC
   17.1
   15.8
   Hct
   33.6
   33.9
   Plt
   278
   259
   Cr
   0.6
   TCO2
   31
   31
   29
   27
   28
   32
   Glucose
   [**Telephone/Fax (3) 2660**]18
   Other labs: PT / PTT / INR:14.1/27.7/1.2, Albumin:3.6 g/dL, Ca++:8.6
   mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
   ASSESSMENT AND PLAN:  53 yo M, long hx of tracheobronchiomalacia w/
   multiple stents placed s/p stent fractures. Currently intubated for
   airway collapse and plan to go back to OR for stent removal and for
   thoracic [**Doctor First Name 91**] c/s for tracheal reconstruction/plasty
   NEUROLOGIC:  intubated/sedated
   sedation: daily wake ups, ativan/fentanyl
   pain: methadone, fentanyl
   CARDIOVASCULAR:  HD stable, cont asa, statin, lasix
   PULMONARY:  vented, poor pulm tree but oxygenating/ventilating
   appropriately, plan for OR Monday for T-tube placement, thoracic [**Doctor First Name 91**]
   c/s for recon/plasty. cont steroids for airway edema
   GI / ABD:  NPO for now, OGT in place
   NUTRITION:  TF
   RENAL:  Stable, Cr 0.6, UOP stable
   HEMATOLOGY:  Stable, Hct 33.6
   ENDOCRINE:  SSI, sugars high, tighten ssi consider adding baseline
   coverage
   ID: Afebrile, WBC 17 (12), no ABx for now, will f/u BAL.  Abx if more
   secretions, fever, or increase in WBC
   LINES/TUBES/DRAINS:  ETT, OGT, R portacath, PIV, foley
   WOUNDS:  none
   IMAGING:  none
   FLUIDS:  kvo
   CONSULTS: primary is [**Last Name (LF) **], [**First Name3 (LF) **] [**Doctor First Name 91**] c/s
   BILLING DIAGNOSIS:
   ICU CARE:
   GLYCEMIC CONTROL:  ssi
   PROPHYLAXIS:  PPI, SCH, boots, VAP bundle
   COMMUNICATIONS:  wife
   ICU Consent:  obtained
   CODE STATUS:  full
   DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2121-10-31**] 03:00 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Comments: BS high,
   200's
   Lines:
   Indwelling Port (PortaCath) - [**2121-10-28**] 01:30 PM
   Arterial Line - [**2121-10-28**] 03:15 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU